US20010036944A1
2. Preparation of 4-(3,5-dimethoxy-phenyl)-2-(2-trifluoromethyl-phenyl) 1.1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2]thiazine-3-carboxylic acid methyl ester (1E)
To dimethylformamide (18 mL) was added 1,1-dioxo-4-(trifluoro-methanesulfonyloxy)2-(2-trifluoromethyl-phenyl) 1,2-dihydro-1λ6-benzo[e][1,2]thiazine-3-carboxylic acid methyl ester, (1.60 g, 3.0 mmol), palladium tetrakis(triphenyl phosphine) (0.2 g, 0.17 mmol), potassium carbonate (0.7 g, 6.0 mmol), 2-methoxyphenylboronic acid (0.88 g, 6.0 mmol), and toluene (50 mL). The mixture was heated to 100° C. for 30 minutes and was filtered through a pad of Celite. The filtrate and EtOAc washing solution was washed three times with saturated sodium bicarbonate solution, brine, and dried over charcoal and anhydrous magnesium sulfate. The suspension was filtered and stripped to an oil which was resuspended in ethyl acetate and ethyl ether. Insoluble material from this mixture was filtered off, and the filtrate was concentrated in vacuo to an oil. The residue was chromatographed on silica gel eluted with a mixture of ethyl acetate and hexane (25:75). The appropriate fractions were concentrated in vacuo and crystallized from ethyl ether giving a solid 1.29 g, 83% yield.

reactant | dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
reactant | 1,1-dioxo-4-(trifluoro-methanesulfonyloxy)2-(2-trifluoromethyl-phenyl) 1,2-dihydro-1λ6-benzo[e][1,2]thiazine-3-carboxylic acid methyl ester | 3.0 mmol, 1.60 g | COC(=O)C=1N(S(C2=C(C1OS(=O)(=O)C(F)(F)F)C=CC=C2)(=O)=O)C2=C(C=CC=C2)C(F)(F)F | C18H11F6NO7S2
reactant | potassium carbonate | 6.0 mmol, 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxyphenylboronic acid | 6.0 mmol, 0.88 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
catalyst | palladium tetrakis(triphenyl phosphine) | 0.17 mmol, 0.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3,5-dimethoxy-phenyl)-2-(2-trifluoromethyl-phenyl) 1.1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2]thiazine-3-carboxylic acid methyl ester | 1.29 g, 83% yield | COC(=O)C=1N(S(C2=C(C1C1=CC(=CC(=C1)OC)OC)C=CC=C2)(=O)=O)C2=C(C=CC=C2)C(F)(F)F | C25H20F3NO6S
